US04948804
1-benzoyl 5-n-propyloxy pyrrolidin-2-one
18.6 cm3 of a 1.5M solution of n-butyllithium in hexane is added to a solution of 4 g of 5-(1-propyloxy) pyrrolidin-2-one in tetrahydrofuran at -60° C., while maintaining the temperature between -55° C. and -60° C. After agitation for 15 minutes at -60° C. a solution of 3.93 g of benzoyl chloride in 20 cm3 of tetrahydrofuran is added at this temperature. After allowing the mixture to return to ambient temperature, the solvent is evaporated under reduced pressure. The residue is chromatographed on silica (eluent: ethyl acetate-n-hexane 1-3) and 4 g of the expected product is obtained. b.p. =200° C. under 0.1 mbar.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-(1-propyloxy) pyrrolidin-2-one | 4 g | C(CC)OC1CCC(N1)=O | C7H13NO2
reactant | benzoyl chloride | 3.93 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 1-benzoyl 5-n-propyloxy pyrrolidin-2-one | 4 g | C(C1=CC=CC=C1)(=O)N1C(CCC1OCCC)=O | C14H17NO3
